US07745641B2
In a similar manner to Step 1 of Example 233, 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.0332 g, 0.0719 mmol) was dissolved in acetonitrile (0.650 mL), and the solution was treated with triethylamine (0.0600 mL, 0.432 mmol) and 3,5-dichlorobenzenesulfonylchloride (0.0530 g, 0.216 mmol) to obtain 4-(3,5-dichlorobenzenesulfonyloxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.0212 g, yield 44%).

reactant | 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.0719 mmol, 0.0332 g | OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C27H31N3O4
reactant | triethylamine | 0.432 mmol, 0.0600 mL | C(C)N(CC)CC | C6H15N
reactant | 3,5-dichlorobenzenesulfonylchloride | 0.216 mmol, 0.0530 g | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
solvent | acetonitrile | 0.650 mL | C(C)#N | C2H3N
product | 4-(3,5-dichlorobenzenesulfonyloxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.0212 g, yield 44% | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C33H33Cl2N3O6S
